US05061717
Methyl 5-(Dimethoxymethyl)pyridine-2-carboxylate
To a solution of methyl 5-(dibromomethyl)pyridine-2-carboxylate (927 mg, 3.00 mmol) in methanol (10 ml) and trimethyl orthoformate (2 ml) was added a solution AgNO3 (1.12 g, 6.6 mmol) in methanol (20 ml) over 15 minutes. After refluxing the reaction for 1 hour, it was cooled and poured into a solution of NaHCO3 (0.84 g, 10 mmol) in water (50 ml) containing a small amount of NaCl. The thick slurry was filtered through a 25-50 micron frit, and the filtrate concentrated to 10 ml and extracted with ethyl acetate (3×10 ml). The combined organic layers were dried (MgSO4), filtered and concentrated to give title product (550 mg, 96%).

reactant | methyl 5-(dibromomethyl)pyridine-2-carboxylate | 3.00 mmol, 927 mg | BrC(C=1C=CC(=NC1)C(=O)OC)Br | C8H7Br2NO2
reactant | NaHCO3 | 10 mmol, 0.84 g | C(=O)(O)[O-].[Na+]
reactant | NaCl | [Na+].[Cl-]
reactant | methanol | 10 ml | CO | CH4O
reactant | methanol | 20 ml | CO | CH4O
solvent | trimethyl orthoformate | 2 ml | C(OC)(OC)OC | C4H10O3
solvent | water | 50 ml | O | H2O
catalyst | AgNO3 | 6.6 mmol, 1.12 g | [N+](=O)([O-])[O-].[Ag+]
product | Methyl 5-(Dimethoxymethyl)pyridine-2-carboxylate | 550 mg, 96% | COC(C=1C=CC(=NC1)C(=O)OC)OC | C10H13NO4
